US07348322B2
2-Oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionic acid
4.6 g of 2-Ethoxy-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-acrylic acid was stirred in 100 ml of 1M sulfuric acid and 15 ml of concentrated acetic acid overnight at 100° C. Water was added, extracted with ethyl acetate, and ethyl acetate solution was dried and concentrated by evaporation in a vacuum. The product (4.1 g) was obtained as a brown oil.

reactant | 2-Ethoxy-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-acrylic acid | 4.6 g | C(C)OC(C(=O)O)=CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F | C16H17F3O3
reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | Water | O | H2O
solvent | sulfuric acid | 1M, 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Oxo-3-[1-(2-trifluoromethyl-phenyl)-cyclobutyl]-propionic acid | 4.1 g | O=C(C(=O)O)CC1(CCC1)C1=C(C=CC=C1)C(F)(F)F | C14H13F3O3
